US05525632
Step 1: Preparation of (Z)-3-(3-nitro-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-ene-nitrile
3.0 g of 3-nitro-4-methoxybenzaldehyde, 3.4 g of 3,4,5-trimethoxyphenylacetonitrile, 800 mg of sodium hydroxide and 100 mg of octylmethylammonium chloride were dissolved in 15 ml of water and 15 ml of dichloromethane and reacted for 4 hours at room temperature. Ice water was added to the reaction liquid, which was then extracted three times each with dichloromethane. The extract was dried with anhydrous sodium sulfate and concentrated. The concentrated liquid was purified by crystallization (ethyl acetate) to obtain 4.4 g of the intended compound. The yield was 72%.

reactant | 3-nitro-4-methoxybenzaldehyde | 3.0 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1OC | C8H7NO4
reactant | 3,4,5-trimethoxyphenylacetonitrile | 3.4 g | COC=1C=C(C=C(C1OC)OC)CC#N | C11H13NO3
reactant | sodium hydroxide | 800 mg | [OH-].[Na+]
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | 15 ml | O | H2O
catalyst | octylmethylammonium chloride | 100 mg | [Cl-].C(CCCCCCC)[NH2+]C
product | (Z)-3-(3-nitro-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-ene-nitrile | 4.4 g, yield was 72% | [N+](=O)([O-])C=1C=C(C=CC1OC)\C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC | C19H18N2O6
